US08877759B2
Preparation 22. Synthesis of tert-butyl 4-(2-methyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)propanoyl)piperazine-1-carboxylate
tert-butyl 4-[2-(4-iodo-2-pyridyl)-2-methyl-propanoyl]piperazine-1-carboxylate (100 mg, 0.2177 mmol) was dissolved in dioxane (1.369 mL) followed by the addition of bis(pinacolato)diboron (110.6 mg, 0.4354 mmol) and potassium acetate (64.10 mg, 0.6531 mmol). The reaction mixture was degassed with 5× vacuum/nitrogen cycles and then [PdCl2(dppf)].dichloromethane (35.56 mg, 0.04354 mmol). The mixture was heated at 85° C. for 3 hours. The reaction mixture was cooled to ambient temperature and taken onto the next step as is. (100 mg, assumed 100% yield).

reactant | tert-butyl 4-[2-(4-iodo-2-pyridyl)-2-methyl-propanoyl]piperazine-1-carboxylate | 0.2177 mmol, 100 mg | IC1=CC(=NC=C1)C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)(C)C | C18H26IN3O3
reactant | bis(pinacolato)diboron | 0.4354 mmol, 110.6 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.6531 mmol, 64.10 mg | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.04354 mmol, 35.56 mg | ClCCl | CH2Cl2
solvent | dioxane | 1.369 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(2-methyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)propanoyl)piperazine-1-carboxylate | 100% yield | CC(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)(C)C1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C24H38BN3O5
